US07902252B2
2.90. Synthesis of 4-(3,5-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (72)
The title compound was synthesized from methyl 4-(3,5-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.066 g, 0.23 mmol) and lithium hydroxide monohydrate (0.049 g, 1.16 mmol), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF was used. The resulting product was purified by chromatography over silica gel (gradient 0 to 100% EtOAc in heptane over 20 min) to afford the title compound. 30 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.06 (ddt, J=12.47, 8.52, 6.03, 6.03 Hz, 1H), 2.26 (s, 6H), 2.44-2.70 (m, 5H), 3.17-3.26 (m, 1H), 6.31 (s, 1H), 6.79 (s, 2H), 6.82 (s, 1H). LCMS m/e 270 (M+H) and 97% pure by HPLC.

reactant | methyl 4-(3,5-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.23 mmol, 0.066 g | CC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=C(C1)C | C18H21NO2
reactant | lithium hydroxide monohydrate | 1.16 mmol, 0.049 g | O.[OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3,5-dimethylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | CC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=C(C1)C | C17H19NO2
